US07888364B2
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 615 μL of 2-(piperazin-1-yl)ethanol via Procedure H. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 125 mg of 4-(4-(3-hydroxypropyl)piperazin-1-ylsulfonyl)benzoic acid by Procedure G and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-(2-hydroxyethyl)piperazin-1-ylsulfonyl)benzamide. MS (Q1) 501.3 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 2-(piperazin-1-yl)ethanol | 615 μL | N1(CCNCC1)CCO | C6H14N2O
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(4-(3-hydroxypropyl)piperazin-1-ylsulfonyl)benzoic acid | 125 mg | OCCCN1CCN(CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C14H20N2O5S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-(2-hydroxyethyl)piperazin-1-ylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)CCO)=O)C1=NC=CC=C1 | C24H25ClN4O4S
